US04337256
1-Amino-2-(2-chlorophenyl)ethane and cyclohexanecarbonyl chloride was reacted in the same way as in step (a) of Example 13 to afford 1-cyclohexylcarbonylamino-2-(2-chlorophenyl)ethane having a melting point of 93.5° to 93.9° C.

reactant | 1-Amino-2-(2-chlorophenyl)ethane | NCCC1=C(C=CC=C1)Cl | C8H10ClN
reactant | cyclohexanecarbonyl chloride | C1(CCCCC1)C(=O)Cl | C7H11ClO
product | 1-cyclohexylcarbonylamino-2-(2-chlorophenyl)ethane | C1(CCCCC1)C(=O)NCCC1=C(C=CC=C1)Cl | C15H20ClNO
